US07435815B2
2-[(4-tert-Butyl-benzenesulfonyl)-(6-methoxy-pyridin-3-yl)-amino]-N,N-diethyl-acetamide
prepared by reaction of 2-bromoacetyl bromide with diethylamine and 4-tert-butyl-N-(6-methoxy-pyridin-3-yl)-benzenesulfonamide

reactant | 2-bromoacetyl bromide | BrCC(=O)Br | C2H2Br2O
reactant | diethylamine | C(C)NCC | C4H11N
reactant | 4-tert-butyl-N-(6-methoxy-pyridin-3-yl)-benzenesulfonamide | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC=1C=NC(=CC1)OC | C16H20N2O3S
product | 2-[(4-tert-Butyl-benzenesulfonyl)-(6-methoxy-pyridin-3-yl)-amino]-N,N-diethyl-acetamide | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)N(CC(=O)N(CC)CC)C=1C=NC(=CC1)OC | C22H31N3O4S
